US09303033B2
A mixture of (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione and (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione (10 mg, 0.028 mmol) was mixed with 1H-benzo[d]imidazole-5-carboxylic acid (20 mg, 0.140 mmol) in isopropanol (1 mL). The mixture was stirred under microwave heating at 150° C. for 20 minutes. The solvent was removed to provide (Z)-1-(4-(cyclopropylamino)-8-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a][1,3,5]triazin-2-yl)-1H-benzo[d]imidazole-5-carboxylic acid as a crude mixture which was taken on to the next step without further purification. LCMS (ES): >95% pure, m/z 446 [M+H]+

reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfinyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)C | C13H13N7O3S
reactant | (Z)-5-((4-(cyclopropylamino)-2-(methylsulfonyl)pyrazolo[1,5-a][1,3,5]triazin-8-yl)methylene)imidazolidine-2,4-dione | 0.028 mmol, 10 mg | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C/2\C(NC(N2)=O)=O)S(=O)(=O)C | C13H13N7O4S
reactant | 1H-benzo[d]imidazole-5-carboxylic acid | 0.140 mmol, 20 mg | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
product | (Z)-1-(4-(cyclopropylamino)-8-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a][1,3,5]triazin-2-yl)-1H-benzo[d]imidazole-5-carboxylic acid | C1(CC1)NC1=NC(=NC=2N1N=CC2\C=C\2/NC(NC2=O)=O)N2C=NC1=C2C=CC(=C1)C(=O)O | C20H15N9O4
